.subckt AND5IN node_out node_a node_b node_c node_d node_e vdd gnd
    X1 node_x node_a node_b vdd gnd AND2IN
    X2 node_y node_c node_d node_e vdd gnd AND3IN
    X3 node_out node_x node_y vdd gnd AND2IN
.ends AND5IN