.include OR2IN.sub

.subckt OR3IN node_out node_a node_b node_c vdd gnd
    X1 node_x node_a node_b vdd gnd OR2IN
    X2 node_out node_x node_c vdd gnd OR2IN
.ends OR3IN