.include XOR2IN.sub
.include NOT.sub

.subckt XNOR2IN node_out node_a node_b vdd gnd
    X1 node_x node_a node_b vdd gnd XOR2IN
    X2 node_out node_x vdd gnd NOT
.ends XNOR2IN